US04840953
Preprartion of 9-(benzylcarbonyl)thio-3-ethoxycarbonyl-4Hpyrido[1,2-a]pyrimidin-4-one Ie-84
To a solution of 0.129 g of 9-(dimethylcarbamoyl)thio-3ethoxycarbonyl-4H-pyrido[1,2-a]pyrimidin-4-one Ib-85 in 5 ml of 1,2-dichloroethane are added 65 μl of phenylacetyl chloride and 0.13 g of zinc iodide, and the resultant mixture is refluxed in a nitrogen stream for 45 minutes. After cooling, the reaction mixture is shaken with N-hydrochloric acid and the organic layer is washed with saturated brine in order, dried and concentrated in vacuo. The residue is chromatographed on a column of silica gel, eluting with ethyl acetate, whereby 0.118 g of the titled compound Ie-84 is obtained.

reactant | 9-(dimethylcarbamoyl)thio-3ethoxycarbonyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.129 g | CN(C(=O)SC1=CC=CN2C1=NC=C(C2=O)C(=O)OCC)C | C14H15N3O4S
reactant | phenylacetyl chloride | 65 μl | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
catalyst | zinc iodide | 0.13 g | [I-].[Zn+2].[I-]
product | 9-(benzylcarbonyl)thio-3-ethoxycarbonyl-4Hpyrido[1,2-a]pyrimidin-4-one | 0.118 g, Yield: 58% | C(C1=CC=CC=C1)C(=O)SC1=CC=CN2C1=NC=C(C2=O)C(=O)OCC | C19H16N2O4S
